US04201584
Preparation of 2-benzyloxy-4,5-dimethoxy-aniline
To a hot suspension (60° C.) of 260 g 2-benzyloxy-4,5-dimethoxy-nitrobenzene in 900 ml of ethanol, 1350 ml of glacial acetic acid and 900 ml of water, 282.6 g of iron powder was added portion-wise over 30 min. Thereafter the mixture was refluxed for 1/4 h. The reaction mixture was poured into 10 l of water and the oily product was extracted with dichloromethane. After drying the solvent was evaporated. Yield: 116 g (50%). Melting point: 74° C.

reactant | 2-benzyloxy-4,5-dimethoxy-nitrobenzene | 260 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C15H15NO5
solvent | ethanol | 900 ml | C(C)O | C2H6O
solvent | acetic acid | 1350 ml | C(C)(=O)O | C2H4O2
solvent | water | 900 ml | O | H2O
catalyst | iron | 282.6 g | [Fe] | Fe
solvent | water | 10 l | O | H2O
product | 2-benzyloxy-4,5-dimethoxy-aniline | C(C1=CC=CC=C1)OC1=C(N)C=C(C(=C1)OC)OC | C15H17NO3
